US07705023B2
1-(5-(Ethoxymethyl)pyrid-2-yl)-5-(4-isopropoxyphenyl)indole-2-carboxylic acid
The title compound was prepared in accordance with Example 10 using 5-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester and 2-chloro-5-(ethoxymethyl)pyridine.

reactant | 5-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C1=CC=C(C=C1)OC(C)C | C20H21NO3
reactant | 2-chloro-5-(ethoxymethyl)pyridine | ClC1=NC=C(C=C1)COCC | C8H10ClNO
product | 1-(5-(Ethoxymethyl)pyrid-2-yl)-5-(4-isopropoxyphenyl)indole-2-carboxylic acid | C(C)OCC=1C=CC(=NC1)N1C(=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC(C)C)C(=O)O | C26H26N2O4
